US05866567
(3aR*,10aS*)-9-[4-(3-benzylureido)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-9-(4-aminobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (148 mg, 0.3 mmol) in dichloromethane (4 mL) was added benzyl isocyanate (40 μL, 0.32 mmol) and the mixture was stirred at room temperature for 90 hours. After filtration, the reaction product was rinsed with diethyl ether to provide 118 mg (yield 63%) of the title compound. m.p. 169°-171° C.

reactant | (3aR*,10aS*)-9-(4-aminobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 0.3 mmol, 148 mg | NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1 | C29H26N4O4
reactant | benzyl isocyanate | 0.32 mmol, 40 μL | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (3aR*,10aS*)-9-[4-(3-benzylureido)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 118 mg, yield 63% | C(C1=CC=CC=C1)NC(NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1)=O | C37H33N5O5
